US05843942
To a mixture of 2-benzyloxy-5-bromobenzylamino hydrochloride (10 g) in toluene (75 ml) at 4° C. was added a solution of trimethylaluminium in toluene (2M, 15.2 ml). The mixture was stirred at ambient temperature for 2 hours, acetonitrile (6.5 ml) added and the mixture heated at 80° C. for 18 hours. The mixture was cooled and poured onto a slurry of silica gel (300 g), and dichloromethane. The solvent was filtered off and the product eluted from the silica gel with methanol to give N1 -[2-benzyloxy-5-bromobenzyl]acetamidine (5.51 g).

reactant | 2-benzyloxy-5-bromobenzylamino hydrochloride | 10 g | C(C1=CC=CC=C1)OC1=C(CNCl)C=C(C=C1)Br | C14H13BrClNO
reactant | trimethylaluminium | C[Al](C)C
reactant | acetonitrile | 6.5 ml | C(C)#N | C2H3N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2M, 15.2 ml | C1(=CC=CC=C1)C | C7H8
product | N1 -[2-benzyloxy-5-bromobenzyl]acetamidine | 5.51 g | C(C1=CC=CC=C1)OC1=C(CNC(C)=N)C=C(C=C1)Br | C16H17BrN2O
